US05002966
2-[4-[(6-Bromohexyl)oxy]butyl]benzo[b]furan
A mixture of 2-benzo[b]furanbutanol (2 g), 1,6-dibromohexane (7.7 ml), TAB (500 mg) in 50% w/v sodium hydroxide solution (100 ml) was stirred at room temperature overnight. Water (100 ml) was added and the mixture extracted with ethyl acetate (2×100 ml). The combined organic extracts were dried and concentrated to give an oil. Purification by FCC eluting with hexane:ethyl acetate, 100:0→95:5) gave the title compound as a clear oil (2.1 g), t.l.c. (ether) Rf 0.83.

reactant | 2-benzo[b]furanbutanol | 2 g | O1C2=C(C=C1CCCCO)C=CC=C2 | C12H14O2
reactant | 1,6-dibromohexane | 7.7 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | Water | 100 ml | O | H2O
product | 2-[4-[(6-Bromohexyl)oxy]butyl]benzo[b]furan | 2.1 g | BrCCCCCCOCCCCC1=CC2=C(O1)C=CC=C2 | C18H25BrO2
